US07501425B1
7-[4-(2-Diethylamino-ethoxy)-phenylamino]-3-(3,5-dimethoxy-phenyl)-1-ethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
A mixture of 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one (0.5 g, 1.33 mmol), 4-(2-diethylaminoethoxy)aniline (0.55 g, 2.66 mmol, Helv. Chim. Acta, 1960; 43:1971-1979) and trifluoroacetic acid (0.46 g, 3.98 mmol) in acetonitrile (6 mL) was heated in a sealed tube at 100° C. for 18 hours. The solvent was removed under reduced pressure and the residue dissolved in water. The solution was made basic with 1N NaOH and extracted twice with EtOAc. The combined organic layers were dried over magnesium sulfate, filtered, and evaporated. The residue was suspended in ether (20 mL), triethylamine (0.27 g, 2.66 mmol), and BOC2O (0.32 g, 1.46 mmol) added, and the mixture stirred at ambient temperature for 4 hours. The reaction mixture was diluted with hexane and cooled to 0° C. The insoluble product was collected by filtration and washed with hexane to afford 0.56 g (81%) of the titled compound: mp 139-141° C. Mass Spectrum (APCI, 80/20 CH3CN/H2O, Probe=450° C.) (m+1)/z 521.3

reactant | 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 1.33 mmol, 0.5 g | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H20N4O4S
reactant | 4-(2-diethylaminoethoxy)aniline | 2.66 mmol, 0.55 g | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
reactant | trifluoroacetic acid | 3.98 mmol, 0.46 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 2.66 mmol, 0.27 g | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 1.46 mmol, 0.32 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
product | 7-[4-(2-Diethylamino-ethoxy)-phenylamino]-3-(3,5-dimethoxy-phenyl)-1-ethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.56 g, 81% | C(C)N(CCOC1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(N(C2)C2=CC(=CC(=C2)OC)OC)=O)CC)CC | C28H36N6O4
